US06107301
A solution of borane in tetrahydrofuran (1M, 29 mL, 29 mmol) was added dropwise to a solution of N-(2-bromo-4-(1-methylethyl)phenyl)-N-ethyl-4-(4,4-ethylenedioxy-piperidino)carbonyl-6-methylpyrimidinamine (1.67 g, 3.3 mmol) in anhydrous THF (7 mL) with stirring under a nitrogen atmosphere. The reaction mixture was heated to reflux temperature and stirred for 20 h, then cooled to ambient temperature. A solution of glacial acetic acid was added dropwise; then the reaction mixture was heated to reflux temperature and stirred for 4 h, then cooled to ambient temperature. The reaction mixture was concentrated in vacuo; the residue was treated with excess 1N NaOH solution, and extracted three times with ethyl acetate. The combined organic layers were dried over MgSO4, filtered and concentrated in vacuo to give an oil. Column chromatography (ethyl acetate) afforded N-(2-bromo-4-(1-methylethyl)phenyl)-N-ethyl-4-(4,4-ethylenedioxy-piperidino)methyl-6-methylpyrimidinamine as a pale brown oil (860 mg); CI-MS; 489, 491 (M+H).

reactant | borane | B | BH3
reactant | N-(2-bromo-4-(1-methylethyl)phenyl)-N-ethyl-4-(4,4-ethylenedioxy-piperidino)carbonyl-6-methylpyrimidinamine | 3.3 mmol, 1.67 g | BrC1=C(C=CC(=C1)C(C)C)N(C1=NC(=CC(=N1)C(=O)N1CCC2(CC1)OCCO2)C)CC | C24H31BrN4O3
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | THF | 7 mL | C1CCOC1 | C4H8O
solvent | tetrahydrofuran | 29 mmol, 1M, 29 mL | O1CCCC1 | C4H8O
product | N-(2-bromo-4-(1-methylethyl)phenyl)-N-ethyl-4-(4,4-ethylenedioxy-piperidino)methyl-6-methylpyrimidinamine | 860 mg | BrC1=C(C=CC(=C1)C(C)C)N(C1=NC(=CC(=N1)CN1CCC2(CC1)OCCO2)C)CC | C24H33BrN4O2
